US07223788B2
4-Butoxy-2-nitrobenzoic acid
A solution of 4-fluoro-2-nitrobenzoic acid (1.81 g) in butanol (20 ml) was mixed with sulfuric acid (3 ml) and stirred at 110° C. for 4 hours. Ethyl acetate (100 ml) was added, and the mixture was washed with saturated sodium bicarbonate solution (3×50 ml), dried with sodium sulfate, filtered and concentrated in vacuo. The residue (2.2 g) was added dropwise at −10° C. to a sodium butoxylate solution prepared from butanol (20 ml) and sodium hydride (2.18 g) at −10° C. under argon and then stirred for 20 hours. Ethyl acetate (100 ml) was added, and the mixture was washed with water (2×50 ml), dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by preparative HPLC. The butyl 4-butoxy-2-nitrobenzoate was hydrolyzed with sodium hydoxide (5N; 100 ml) in ethanol at room temperature for 3 hours. The mixture was acidified with hydrochloric acid (10N; 100 ml) and extracted with dichloromethane, and the organic phase was dried over sodium sulfate, filtered and concentrated. This resulted in the product with the molecular weight of 239.23 (C11H13NO5); MS (ESI): 240 (M+H+).

reactant | 4-fluoro-2-nitrobenzoic acid | 1.81 g | FC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4FNO4
reactant | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
reactant | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | butanol | 20 ml | C(CCC)O | C4H10O
product | 4-Butoxy-2-nitrobenzoic acid | C(CCC)OC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C11H13NO5
